US08748415B2
Preparation of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-((2-(piperidin-1-yl)ethylamino)methyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid
To a solution of tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-((2-(piperidin-1-yl)ethylamino)methyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (119 mg, 0.167 mmol) in DCM (1 ml) was added TFA (0.4 ml, 5.19 mmol). The mixture was stirred at rt for 6 h then was concentrated under reduced pressure. The residue was dissolved in dioxane and MeOH and was purified by prep HPLC. The fractions containing the expected product were combined and concentrated under reduced pressure. The residue was dissolved in dioxane and methanol and the mixture was heated with a heat gun to reflux. Water was slowly added until the mixture was slightly cloudy. The mixture was allowed to cool to rt and then was refrigerated overnight. The solids that formed were collected by filtration and were washed with water to afford the title compound as a light-yellow solid (57 mg, 0.087 mmol, 52.1% yield). LCMS: m/e 655.6 (M+H)+, 2.28 min (method 6). 1H NMR (400 MHz, Acetic Acid d4) δ ppm 7.99 (d, J=8.28 Hz, 2H), 7.25 (d, J=8.28 Hz, 2H), 5.32 (d, J=4.52 Hz, 1H), 4.75 (s, 1H), 4.63 (s, 1H), 3.72 (s, 2H), 3.56-3.66 (m, 2H), 3.33 (d, J=12.80 Hz, 1H), 2.98 (d, J=12.80 Hz, 1H), 2.48 (br. s., 1H), 1.71 (s, 3H), 1.14 (s, 3H), 1.09-2.22 (m, 32H), 1.05 (s, 3H), 1.03 (s, 3H), 0.97 (s, 3H), 0.96 (s, 3H).

reactant | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-((2-(piperidin-1-yl)ethylamino)methyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.167 mmol, 119 mg | C[C@]12CC[C@@]3([C@@H]([C@H]2CC[C@@H]2[C@]4(CC=C(C([C@@H]4CC[C@@]12C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC3)C(=C)C)CNCCN3CCCCC3 | C48H74N2O2
reactant | TFA | 5.19 mmol, 0.4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-((2-(piperidin-1-yl)ethylamino)methyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 0.087 mmol, 57 mg, 52.1% yield | C[C@]12CC[C@@]3([C@@H]([C@H]2CC[C@@H]2[C@]4(CC=C(C([C@@H]4CC[C@@]12C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC3)C(=C)C)CNCCN3CCCCC3 | C44H66N2O2
